US06110922
(2-Bromophenyl)[2-chloro-4-(E-((4-acetylhomopiperazin-1-yl)carbonyl) ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-bromothiophenol, 2-chlorobenzaldehyde with 3-chloro-4-fluoro-benzadehyde, and 6-amino-1-hexanol with 4-acetylhomopiperazine. 1H NMR (DMSO-d6, 300 MHz) δ 8.10 (m, 1H), 7.81 (d, J=7.7 Hz, 1H), 7.64 (m, 1H), 7.24-7.51 (m, 5H), 7.05 (m, 1H), 3.39-3.77 (m, 8H), 1.97 (m, 3H), 1.68 (m, 2H). HRMS calculated for C22H22N2O2S1Br1Cl1 : 493.0352. Observed: 493.0352.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-bromothiophenol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | 4-acetylhomopiperazine | C(C)(=O)N1CCNCCC1 | C7H14N2O
product | (2-Bromophenyl)[2-chloro-4-(E-((4-acetylhomopiperazin-1-yl)carbonyl) ethenyl)phenyl]sulfide | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)N1CCN(CCC1)C(C)=O)Cl | C22H22BrClN2O2S
